US04871842
In 80 ml of N,N-dimethylformamide is dissolved 10 g of 4-(2-aminophenyl)-2-phthalimidobutyric acid, and 6.7 g of diethyl phosphorocyanidate is added dropwise to the solution under ice-cooling with stirring. After the addition is complete, stirring is continued for 15 minutes, and 3.1 g of triethylamine is added dropwise to the mixture under ice cooling, followed by stirring under ice-cooling for 45 minutes and then at room temperature for 30 minutes. The reaction solution is diluted with 200 ml of water, followed by stirring for 1 hour, and the crystals, which separate out, are collected by filtration, dried and added to 100 ml of ethanol, followed by heating. After the solution is concentrated to about half of the original volume, the colorless prisms which separate out are collected by filtration to give 8.3 g of 3-phthalimido-1,3,4,5-tetrahydro-1-benzazepin-2-one. m.p. 261°-263° C.

reactant | 4-(2-aminophenyl)-2-phthalimidobutyric acid | 10 g | NC1=C(C=CC=C1)CCC(C(=O)O)N1C(C=2C(C1=O)=CC=CC2)=O | C18H16N2O4
reactant | diethyl phosphorocyanidate | 6.7 g | P(OCC)(OCC)(=O)C#N | C5H10NO3P
reactant | triethylamine | 3.1 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | 3-phthalimido-1,3,4,5-tetrahydro-1-benzazepin-2-one | 8.3 g | C1(C=2C(C(N1C1C(NC3=C(CC1)C=CC=C3)=O)=O)=CC=CC2)=O | C18H14N2O3
